US07227038B2
a) 2-Chloro-5-iodo-N-[(4-methoxyphenyl)methyl]-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)benzamide
Potassium t-butoxide (18.8 g) was added to a stirred solution of 2-chloro-5-iodo-N-(tricyclo [3.3.1.13,7]dec-1-ylmethyl)benzamide (prepared as described in WO 99/29661) (60.0 g) in anhydrous tetrahydrofuran (600 mL) at 20° C. under nitrogen. After the addition was complete, 4-methoxybenzyl chloride (20.8 mL) was added. The mixture was heated to reflux for 12 hours and then cooled to room temperature. Water (600 mL) was added and the mixture extracted with dichloromethane (1.2 L then 400 mL). Organic extracts were dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure.

reactant | Potassium t-butoxide | 18.8 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-5-iodo-N-(tricyclo [3.3.1.13,7]dec-1-ylmethyl)benzamide | 60.0 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)I | C18H21ClINO
reactant | 4-methoxybenzyl chloride | 20.8 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Water | 600 mL | O | H2O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 2-Chloro-5-iodo-N-[(4-methoxyphenyl)methyl]-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)benzamide | ClC1=C(C(=O)N(CC23CC4CC(CC(C2)C4)C3)CC3=CC=C(C=C3)OC)C=C(C=C1)I | C26H29ClINO2
